US04526932
The same reactor as used in Example 1 was charged with 30 g of N-vinylpyrrolidone, 104 g of triphenyltin chloride and 200 g of xylene, and the mixture was stirred at 50° C. for 2 hours to form an N-vinylpyrrolidone/triphenyltin chloride adduct. Then, 50 g of butyl acrylate, 16 g of octyl acrylate and 0.5 g of benzoyl peroxide were added, and with stirring, the mixture was heated to 75° C. At this temperature, 0.2 g of benzoyl peroxide was added three times at intervals of 3 hours, and the polymerization reaction was carried out for a total of 12 hours to give an N-coordinated-triphenyltin-containing copolymer solution having a molecular weight of 77,000 (to be referred to as a copolymer solution [A-18]). This copolymer solution was used directly as an antifouling agent.

reactant | N-vinylpyrrolidone | 30 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | triphenyltin chloride | 104 g | C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)Cl
solvent | xylene | 200 g | C=1(C(=CC=CC1)C)C | C8H10
product | N-vinylpyrrolidone triphenyltin chloride | C(=C)N1C(CCC1)=O.C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | InChI=1S/C6H9NO.3C6H5.ClH.Sn/c1-2-7-5-3-4-6(7)8;3*1-2-4-6-5-3-1;;/h2H,1,3-5H2;3*1-5H;1H;/q;;;;;+1/p-1
